US07741327B2
To a stirred mixture of 2-fluoro-3-methoxy-phenol (3.88 g, 0.027 mol) and methyl-2-butynoate (5.97 g, 0.061 mol) in tetrahydrofuran (30 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (4.64 g, 0.030 mol) slowly. After addition was complete the mixture was stirred at reflux overnight. Upon completion of the reaction the tetrahydrofuran was removed in vacuo and the residue was diluted in diethyl ether and washed first with 1N aqueous hydrochloric acid, then 10% aqueous sodium hydroxide solution, a saturated sodium chloride solution and dried over magnesium sulfate. The mixture was filtered and evaporated and the residue dried under high vacuum which afforded (E)-3-(2-fluoro-3-methoxy-phenoxy)-but-2-enoic acid methyl ester (4.37 g, 63%) as a colorless oil and used without further purification.

reactant | 2-fluoro-3-methoxy-phenol | 0.027 mol, 3.88 g | FC1=C(C=CC=C1OC)O | C7H7FO2
reactant | methyl-2-butynoate | 0.061 mol, 5.97 g | COC(C#CC)=O | C5H6O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.030 mol, 4.64 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (E)-3-(2-fluoro-3-methoxy-phenoxy)-but-2-enoic acid methyl ester | 4.37 g, 63% | COC(\C=C(/C)\OC1=C(C(=CC=C1)OC)F)=O | C12H13FO4
